US08877801B2
To a solution of 2,3-dibromo-6-methoxybenzo[b]thiophene 1,1-dioxide (2.50 g, 7.06 mmol) in THF (100 mL) at room temperature was added 4-bromophenol (1.344 g, 7.77 mmol) and Cs2CO3 (6.90 g, 21.19 mmol). The reaction mixture turned green after ˜1 min of stirring. The mixture was stirred at room temperature for 18 h after which time the reaction was quenched with water and diluted with DCM. The organic layer was collected (phase separator) and concentrated to provide 2-bromo-3-(4-bromophenoxy)-6-methoxybenzo[b]thiophene 1,1-dioxide (3.10 g, 6.95 mmol, 98% yield) as a white solid which was used without further purification. 1H NMR (400 MHz, CDCl3) δ ppm=3.83 (s, 3H), 6.92-7.03 (m, 3H), 7.25-7.35 (m, 2H), 7.39-7.50 (m, 2H).

reactant | 2,3-dibromo-6-methoxybenzo[b]thiophene 1,1-dioxide | 7.06 mmol, 2.50 g | BrC1=C(C2=C(S1(=O)=O)C=C(C=C2)OC)Br | C9H6Br2O3S
reactant | 4-bromophenol | 7.77 mmol, 1.344 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | Cs2CO3 | 21.19 mmol, 6.90 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-bromo-3-(4-bromophenoxy)-6-methoxybenzo[b]thiophene 1,1-dioxide | 6.95 mmol, 3.10 g, 98% yield | BrC1=C(C2=C(S1(=O)=O)C=C(C=C2)OC)OC2=CC=C(C=C2)Br | C15H10Br2O4S
